US06579868B1
4) 3-[2-Amino-6-chloro-8-(3-fluorophenyl)-9H-9-purinyl]benzonitrile
Crude crystals (3.2 g) of 3-[(2,5-diamino-6-chloro-4-pyrimidinyl)amino]benzonitrile were dissolved in 64 ml of methanol, then 3.2 ml of acetic acid and 1.7 ml of 3-fluorobenzaldehyde were added thereto and the mixture was stirred at room temperature for 2 hours. The reaction solution was concentrated and was subjected to an azeotropy with toluene for two times. The resulting residue after concentration was dissolved in ethanol, a solution of 1.72 g of ferric chloride in 10 ml of ethanol was added and the mixture was heated under reflux for 1 hour. The reaction solution was returned to room temperature, concentrated to dryness and added to ice-water and the resulting crystals were collected by filtration to give 2.6 g of the title compound, i.e. 3-[2-amino-6-chloro-8-(3-fluorophenyl)-9H-9-purinyl]benzonitrile.

reactant | 3-[(2,5-diamino-6-chloro-4-pyrimidinyl)amino]benzonitrile | NC1=NC(=C(C(=N1)NC=1C=C(C#N)C=CC1)N)Cl | C11H9ClN6
reactant | acetic acid | 3.2 ml | C(C)(=O)O | C2H4O2
reactant | 3-fluorobenzaldehyde | 1.7 ml | FC=1C=C(C=O)C=CC1 | C7H5FO
solvent | methanol | 64 ml | CO | CH4O
product | 3-[2-Amino-6-chloro-8-(3-fluorophenyl)-9H-9-purinyl]benzonitrile | 2.6 g | NC1=NC(=C2N=C(N(C2=N1)C=1C=C(C#N)C=CC1)C1=CC(=CC=C1)F)Cl | C18H10ClFN6
